US07148250B2
1-(3-Carboxy-phenyl)-3-(2-mercapto-ethyl)-1H-indole-2-carboxylic acid
To a solution of 3-(2-acetylsulfanyl-ethyl)-1-(3-methoxycarbonyl-phenyl)-1H-indole-2-carboxylic acid methyl ester (0.32 g, 0.73 mmol) in THF (10 mL) was dropwise added 0.5 N KOH (10 mL) and the resulting mixture was stirred at room temperature overnight. The reaction acidified with 3 N HCl and the resulting white precipitate was washed with H2O and dried under vacuum to give 0.22 g of a white solid (85% yield over 2 steps): 1H NMR (DMSO-d6, 300 MHz) δ 2.81 (t, J=6 Hz, 2H), 3.37 (t, J=6 Hz, 2H), 7.02 (d, J=9 Hz, 1H), 7.19 (t, J=6 Hz, 1H), 7.28 (t, J=6 Hz, 1H), 7.63 (m, 2H), 7.77 (s, 1H), 7.83 (d, J=9 Hz, 1H), 8.01 (d, J=9 Hz, 1H); 13C NMR (DMSO-d6, 300 MHz) δ 25.18, 29.62, 111.11, 121.26, 123.93, 126.18, 127.13, 127.28, 128.35, 129.10, 129.86, 132.24, 138.93, 139.48, 162.78, 167.07. Anal. Calcd for C18H15NO4S: C, 63.33; H, 4.43; N, 4.10; S, 9.39. Found: C, 63.03; H, 4.6; N, 4.09; S, 9.16.

reactant | 3-(2-acetylsulfanyl-ethyl)-1-(3-methoxycarbonyl-phenyl)-1H-indole-2-carboxylic acid methyl ester | 0.73 mmol, 0.32 g | COC(=O)C=1N(C2=CC=CC=C2C1CCSC(C)=O)C1=CC(=CC=C1)C(=O)OC | C22H21NO5S
reactant | KOH | 0.5 N, 10 mL | [OH-].[K+]
reactant | HCl | 3 N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(3-Carboxy-phenyl)-3-(2-mercapto-ethyl)-1H-indole-2-carboxylic acid | 0.22 g, 85% yield | C(=O)(O)C=1C=C(C=CC1)N1C(=C(C2=CC=CC=C12)CCS)C(=O)O | C18H15NO4S
